US07531532B2
1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-{4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}urea
To a solution of 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea (96 mg) in ethanol (5.0 ml) was added (1S)-(+)-10-camphorsulfonic acid (103 mg), followed by stirring at room temperature for 15 min. A solution of 2-phenylacetyl isothiocyanate in toluene (0.25 M, 2.80 ml) was added to the reaction mixture, followed by stirring at room temperature for 4 hrs. Ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml) were added to the reaction mixture, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=20:1). Fractions containing a target compound were concentrated to give a residue, to which diethyl ether (5 ml) and hexane (25 ml) were added to give a precipitate. The precipitate was suspended in the solvent. Then the precipitate was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (57.4 mg, 42%) as white powder.

reactant | 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 96 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C22H32N6O2
reactant | (1S)-(+)-10-camphorsulfonic acid | 103 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
solvent | toluene | 0.25 M, 2.80 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 25 ml | CCCCCC | C6H14
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-{4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}urea | 57.4 mg, 42% | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)C)C | C31H39N7O3S
